US06107329
5-Fluoro-1H-indole-2-carboxylic acid [(1S)-benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
(S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one hydrochloride (0.65 mmol) and 5fluoro-1H-indole-2-carboxylic acid (0.73 mmol) were coupled according to Procedure A (0-25° C. reaction temperature) and the product purified by chromatography on silica gel eluted with 20, 30, 40, 50, 75 and 100% ethyl acetate in hexanes. Yield 228 mg, 84%; HPLC (60/40) 3.57 minutes (98%); PBMS 410 (MH+, 100%);

reactant | (S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one hydrochloride | 0.65 mmol | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1
reactant | 5fluoro-1H-indole-2-carboxylic acid | 0.73 mmol | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
product | 5-Fluoro-1H-indole-2-carboxylic acid [(1S)-benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | C(C1=CC=CC=C1)[C@@H](C(=O)N1CCC(CC1)O)NC(=O)C=1NC2=CC=C(C=C2C1)F | C23H24FN3O3
